US05070087
2-Chloro-1-(4-hydroxy-3-methoxyphenyl)ethanone
To a cooled (ice bath) stirred solution of 130.3 g (1.05 mole) of 2-methoxyphenol in 750 mL of carbon disulfide was continuously added 306.6 g (2.3 mole) of anhydrous aluminum chloride portionwise. The stirred, cooled mixture was then treated dropwise with 80 mL (113 g, 1.0 mole) of 2-chloroacetyl chloride. After the addition was completed, the mixture was heated at reflux temperature for 20 hr, cooled, and poured into a mixture of 2 kg of crushed ice and 200 ml of concentrated hydrochloric acid. The solid which gradually crystallized was washed with water and carbon disulfide and dried. The solid was recrystallized from isopropyl ether containing a few drops of 2-propanol to yield 128.3 g (64% yield) of the title compound, mp 102°-103° C.

reactant | 2-methoxyphenol | 1.05 mole, 130.3 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | aluminum chloride | 2.3 mole, 306.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-chloroacetyl chloride | 1.0 mole, 80 mL, 113 g | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | carbon disulfide | 750 mL | C(=S)=S | CS2
product | 2-Chloro-1-(4-hydroxy-3-methoxyphenyl)ethanone | 128.3 g, 64% yield | ClCC(=O)C1=CC(=C(C=C1)O)OC | C9H9ClO3
